US05686460
A solution of 6.5 g of N,N-dibenzyl-4-[(cyclopentylidene)(3-fluoro-4-methylphenyl)methyl]benzenesulfonamide, prepared in Example 10, in ml of trifluoroacetic acid is heated for 10 hours at 60° C. The mixture is poured into iced water and extracted with dichloromethane. The organic phase is washed with sodium bicarbonate solution, dried over magnesium sulfate and evaporated under vacuum. The residue is chromatographed on silica gel in a dichloromethane/acetone mixture (95/5) to give 3 g of 4-[(cyclopentylidene)(3-fluoro-4-methylphenyl)methyl]benzenesulfonamide in the form of a semicrystalline oil.

reactant | N,N-dibenzyl-4-[(cyclopentylidene)(3-fluoro-4-methylphenyl)methyl]benzenesulfonamide | 6.5 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(C1=CC(=C(C=C1)C)F)=C1CCCC1)CC1=CC=CC=C1 | C33H32FNO2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | 4-[(cyclopentylidene)(3-fluoro-4-methylphenyl)methyl]benzenesulfonamide | 3 g | C1(CCCC1)=C(C1=CC=C(C=C1)S(=O)(=O)N)C1=CC(=C(C=C1)C)F | C19H20FNO2S
